US05998433
b) Synthesis of N,N-dimethyl-[5-[4-(2-phenyl-1,3-dithian-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-[4-(2-phenyl-1,3-dithian-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.368 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-[4-(2-phenyl-1,3-dithian-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.368 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1(SCCCS1)C1=CC=CC=C1)=O | C27H30N2O2S2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-[4-(2-phenyl-1,3-dithian-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1(SCCCS1)C1=CC=CC=C1)=O | InChI=1S/C27H30N2O2S2.ClH/c1-28(2)19-24-17-21-18-29(14-13-25(21)31-24)26(30)20-9-11-23(12-10-20)27(32-15-6-16-33-27)22-7-4-3-5-8-22;/h3-5,7-12,17H,6,13-16,18-19H2,1-2H3;1H
